US06855710B2
(Z)-3-[1-(4-dimethylaminomethyl-phenylamino)-1-(m-tolyl)-methylidene]-5-nitro-2-indolinone
Prepared analogously to Example 2 from 1-acetyl-3-[1-chloro-1-(m-tolyl)-methylidene)-5-nitro-2-indolinone and 4-dimethylaminomethyl-aniline in DMF and subsequent treatment with sodium hydroxide solution in methanol.

reactant | 1-acetyl-3-[1-chloro-1-(m-tolyl)-methylidene)-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C=1C=C(C=CC1)C)Cl)=O | C18H13ClN2O4
reactant | 4-dimethylaminomethyl-aniline | CN(C)CC1=CC=C(N)C=C1 | C9H14N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | (Z)-3-[1-(4-dimethylaminomethyl-phenylamino)-1-(m-tolyl)-methylidene]-5-nitro-2-indolinone | CN(C)CC1=CC=C(C=C1)N\C(\C=1C=C(C=CC1)C)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C25H24N4O3
